### PR TITLE
[Merged by Bors] - feat(MeasureTheory): derivative integrable functions

### PR DESCRIPTION
**Pull request by zhuyizheng**
Part of originally planned #29092. We prove that:
* If `f` is monotone on `a..b`, then `f'` is interval integrable on `a..b`.
* If `f` has bounded variation on `a..b`, then `f'` is interval integrable on `a..b`.
* If `f` is absolutely continuous on `a..b`, then `f'` exists a.e. on `a..b` and is interval
integrable on `a..b`.

---

- [x] depends on: #29504
[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/DerivIntegrable.lean [hunk 1]
```diff
@@ -0,0 +1,158 @@
...
+/-!
+# `f'` is interval integrable for certain classes of functions `f`
+
+This file proves that:
+* `MonotoneOn.deriv_intervalIntegrable` - If `f` is monotone on `a..b`, then `f'` is interval
+integrable on `a..b`.
+* `LocallyBoundedVariationOn.deriv_intervalIntegrable` - If `f` has bounded variation on `a..b`,
+then `f'` is interval integrable on `a..b`.
+* `AbsolutelyContinuousOnInterval.ae_differentiableAt` - If `f` is absolutely continuous on `a..b`,
+then `f'` exists a.e. on `uIcc a b`.
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/IntervalIntegral/DerivIntegrable.lean]:
```suggestion
then `f'` exists a.e. on `a..b`.
```
(for coherence with the other docstrings)

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/DerivIntegrable.lean [hunk 2]
```diff
@@ -0,0 +1,158 @@
...
+      rw [this]
+      gcongr
+      · simp
+      · exact intervalIntegral.integral_mono_on (by simp) (by simp) hg.intervalIntegrable
+          (fun x hx ↦ hg (mem_Icc.mp hx).left)
+    · simp only [EqOn, le_add_iff_nonneg_right, inv_nonneg, Nat.cast_nonneg, uIcc_of_le, mem_Icc,
+          and_imp]
+      grind
+    all_goals exact hg.intervalIntegrable
+  have f_fatou : ∫⁻ x in Ioc a b, ‖deriv f x‖ₑ ≤ ENNReal.ofReal (f b - f a) := by
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/IntervalIntegral/DerivIntegrable.lean]: You should split this proof into several bits, extracting the interesting subresults. For instance, the estimate on this line should definitely get its own lemma.

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/DerivIntegrable.lean [hunk 3]
```diff
@@ -0,0 +1,158 @@
...
+interval integrable, monotone, bounded variation, absolutely continuous
+-/
+
+open MeasureTheory Set Filter Function
+
+open scoped Topology ENNReal Interval NNReal
+
+
+/-- If `f` is monotone, then `f'` is interval integrable on `a..b` for any `a` and `b`. -/
+theorem MonotoneOn.deriv_intervalIntegrable {f : ℝ → ℝ} {a b : ℝ} (hf : MonotoneOn f (uIcc a b)) :
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/IntervalIntegral/DerivIntegrable.lean]: The expression in the lemma says `IntervalIntegrable (deriv ...) ...`. The order of words in the lemma name should follow the expression, so `intervalIntegrable_deriv`. Same thing elsewhere in this file.

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/DerivIntegrable.lean [hunk 4]
```diff
@@ -0,0 +1,158 @@
...
+    suffices AEStronglyMeasurable (deriv g) from this.restrict
+    apply aestronglyMeasurable_of_tendsto_ae (lim := G_lim)
+    exact fun n ↦ (G_integrable (n : ℝ)⁻¹).aestronglyMeasurable
+  · grw [HasFiniteIntegral, f_fatou]
+    exact ENNReal.ofReal_lt_top
+
+/-- If `f` has locally bounded variation on `uIcc a b`, then `f'` is interval integrable on
+`a..b`. -/
+theorem LocallyBoundedVariationOn.deriv_intervalIntegrable {f : ℝ → ℝ} {a b : ℝ}
+  (hf : LocallyBoundedVariationOn f (uIcc a b)) :
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/IntervalIntegral/DerivIntegrable.lean]: indentation

Also, I'd phrase it with bounded variation, not locally bounded variation: since you're on a segment, both notions are equivalent so better use the simpler one.

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/DerivIntegrable.lean [hunk 5]
```diff
@@ -0,0 +1,158 @@
...
+  have := hf.boundedVariationOn.locallyBoundedVariationOn.ae_differentiableWithinAt_of_mem
+  have h₁ : ∀ᵐ x, x ≠ min a b := by simp [ae_iff, measure_singleton]
+  have h₂ : ∀ᵐ x, x ≠ max a b := by simp [ae_iff, measure_singleton]
+  filter_upwards [this, h₁, h₂] with x hx₁ hx₂ hx₃ hx₄
+  rw [uIcc, mem_Icc] at hx₄
+  exact (hx₁ hx₄).differentiableAt (Icc_mem_nhds (by grind) (by grind))
+
+/-- If `f` is absolute continuous on `uIcc a b`, then `f'` is interval integrable on `a..b`. -/
+theorem AbsolutelyContinuousOnInterval.deriv_intervalIntegrable {f : ℝ → ℝ} {a b : ℝ}
+  (hf : AbsolutelyContinuousOnInterval f a b) :
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/IntervalIntegral/DerivIntegrable.lean]: indentation

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/DerivIntegrable.lean [hunk 6]
```diff
@@ -0,0 +1,158 @@
...
+  filter_upwards [hp.ae_differentiableWithinAt_of_mem, hq.ae_differentiableWithinAt_of_mem, h₂]
+    with x hx₁ hx₂ hx₃ hx₄
+  have hx₅ : x ∈ uIcc a b := Ioc_subset_Icc_self hx₄
+  rw [uIoc, mem_Ioc] at hx₄
+  replace hx₁ := (hx₁ hx₅).differentiableAt (Icc_mem_nhds (by grind) (by grind)) |>.hasDerivAt
+  replace hx₂ := (hx₂ hx₅).differentiableAt (Icc_mem_nhds (by grind) (by grind)) |>.hasDerivAt
+  exact (hx₁.sub hx₂).deriv.symm
+
+/-- If `f` is absolute continuous on `uIcc a b`, then `f'` exists a.e. on `uIcc a b`. -/
+theorem AbsolutelyContinuousOnInterval.ae_differentiableAt {f : ℝ → ℝ} {a b : ℝ}
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/IntervalIntegral/DerivIntegrable.lean]: I'm not sure this belongs to this file. Also, do we have the exact same result for bounded variation? If no, you should add it and deduce the current one from the bounded variation version.

Comment (zhuyizheng) [reply Mathlib/MeasureTheory/Integral/IntervalIntegral/DerivIntegrable.lean]: There is `LocallyBoundedVariationOn.ae_differentiableWithinAt_of_mem` whose conclusion differs from this one by `DifferentiableWithinAt` vs `DifferentiableAt`. I will add `LocallyBoundedVariationOn.ae_differentiableAt` and deduce from there. Also this will be moved to `Mathlib.MeasureTheory.Function.AbsolutelyContinuous`.

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/DerivIntegrable.lean (hunk 2 above)
Comment (zhuyizheng) [reply Mathlib/MeasureTheory/Integral/IntervalIntegral/DerivIntegrable.lean]: done

**Comment by zhuyizheng** [comment]
-awaiting-author

File: Mathlib/Analysis/Calculus/Deriv/Slope.lean [hunk 7]
```diff
@@ -184,6 +178,14 @@ lemma MonotoneOn.derivWithin_nonneg (hg : MonotoneOn g s) :
   · simp [derivWithin_zero_of_not_accPt hx]
   exact hd.hasDerivWithinAt.nonneg_of_monotoneOn hx hg
 
+/-- The derivative at the interior of a set of a monotone function is nonnegative. -/
+lemma MonotoneOn.deriv_nonneg (hg : MonotoneOn g s) (hs : s ∈ 𝓝 x) :
+    0 ≤ deriv g x := by
+  by_cases hd : DifferentiableAt 𝕜 g x; swap
+  · simp [deriv_zero_of_not_differentiableAt hd]
+  rw [hd.differentiableWithinAt.hasDerivWithinAt.hasDerivAt hs |>.deriv]
+  exact MonotoneOn.derivWithin_nonneg hg
```
Comment (sgouezel) [inline Mathlib/Analysis/Calculus/Deriv/Slope.lean]:
```suggestion
  rw [← derivWithin_of_mem_nhds hs]
  exact hg.derivWithin_nonneg
```
No need to separate the cases.

File: Mathlib/MeasureTheory/Function/L1Space/Integrable.lean [hunk 8]
```diff
@@ -1211,4 +1213,40 @@ lemma integrable_prod {f : α → E × F} :
     Integrable f μ ↔ Integrable (fun x ↦ (f x).1) μ ∧ Integrable (fun x ↦ (f x).2) μ :=
   ⟨fun h ↦ ⟨h.fst, h.snd⟩, fun h ↦ h.1.prodMk h.2⟩
 
+section Limit
+
+/-- If `G n` tends to `f` a.e. and each `‖G n ·‖ₑ` is `AEMeasurable`, then the lower Lebesgue
+integral of `‖f ·‖ₑ` is at most the liminf of the lower Lebesgue integral of `‖G n ·‖ₑ`. -/
+theorem lintegral_bound_of_tendsto_atTop_aemeasurable_enorm
+    {G : ℕ → ℝ → ℝ} {f : ℝ → ℝ} {μ : Measure ℝ}
+    (hGf : ∀ᵐ x ∂μ, Filter.Tendsto (fun (n : ℕ) ↦ G n x) Filter.atTop (𝓝 (f x)))
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/L1Space/Integrable.lean]:
```suggestion
    (hGf : ∀ᵐ x ∂μ, Tendsto (fun (n : ℕ) ↦ G n x) atTop (𝓝 (f x)))
```
Same thing below. `Filter` is open, no need to prefix it.

File: Mathlib/MeasureTheory/Function/L1Space/Integrable.lean [hunk 9]
```diff
@@ -1211,4 +1213,40 @@ lemma integrable_prod {f : α → E × F} :
     Integrable f μ ↔ Integrable (fun x ↦ (f x).1) μ ∧ Integrable (fun x ↦ (f x).2) μ :=
   ⟨fun h ↦ ⟨h.fst, h.snd⟩, fun h ↦ h.1.prodMk h.2⟩
 
+section Limit
+
+/-- If `G n` tends to `f` a.e. and each `‖G n ·‖ₑ` is `AEMeasurable`, then the lower Lebesgue
+integral of `‖f ·‖ₑ` is at most the liminf of the lower Lebesgue integral of `‖G n ·‖ₑ`. -/
+theorem lintegral_bound_of_tendsto_atTop_aemeasurable_enorm
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/L1Space/Integrable.lean]:
```suggestion
theorem lintegral_enorm_le_liminf_of_tendsto
```
Same thing below: the lemma name should mostly focus on the conclusion of the lemma.

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/DerivIntegrable.lean [hunk 10]
```diff
@@ -0,0 +1,155 @@
...
+  filter_upwards [hp.ae_differentiableWithinAt_of_mem, hq.ae_differentiableWithinAt_of_mem, h₂]
+    with x hx₁ hx₂ hx₃ hx₄
+  have hx₅ : x ∈ uIcc a b := Ioc_subset_Icc_self hx₄
+  rw [uIoc, mem_Ioc] at hx₄
+  have hx₆ : uIcc a b ∈ 𝓝 x := Icc_mem_nhds hx₄.left (lt_of_le_of_ne hx₄.right hx₃)
+  replace hx₁ := (hx₁ hx₅).differentiableAt hx₆ |>.hasDerivAt
+  replace hx₂ := (hx₂ hx₅).differentiableAt hx₆ |>.hasDerivAt
+  exact (hx₁.sub hx₂).deriv.symm
+
+/-- If `f` is absolute continuous on `uIcc a b`, then `f'` is interval integrable on `a..b`. -/
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/IntervalIntegral/DerivIntegrable.lean]:
```suggestion
/-- If `f` is absolutely continuous on `uIcc a b`, then `f'` is interval integrable on `a..b`. -/
```

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/DerivIntegrable.lean [hunk 11]
```diff
@@ -0,0 +1,155 @@
...
+-/
+
+open MeasureTheory Set Filter
+
+open scoped Topology
+
+/-- If `f` is monotone on `[a, b]`, then `f'` is the limit of `G n` a.e. on `[a, b]`, where each
+`G n` is `AEStronglyMeasurable` and the liminf of the lower Lebesgue integral of `‖G n ·‖ₑ` is at
+most `f b - f a`. -/
+lemma MonotoneOn.exists_tendsto_atTop_aestronglyMeasurable_liminf_le
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/IntervalIntegral/DerivIntegrable.lean]: The point of the lemma is that the sequence you're constructing tends to the derivative, so `deriv` should definitely be in the lemma name. On the other hand, `atTop` and `aestronglyMeasurable` are details (of course it's at top, what else, and the measurability is just a useful technical conclusion, but not the main focus). The fact that the liminf is le, on the other hand, is the key point of the lemma. So maybe
```suggestion
lemma MonotoneOn.exists_tendsto_deriv_liminf_lintegral_enorm_le
```
I think this conveys much more closely the interesting mathematical content of the lemma. In general, you should follow this kind of rule when picking the name of a lemma.

**Comment by zhuyizheng** [comment]
-awaiting-author

File: Mathlib/MeasureTheory/Function/L1Space/Integrable.lean [hunk 12]
```diff
@@ -1211,4 +1213,38 @@ lemma integrable_prod {f : α → E × F} :
...
+    {G : ℕ → ℝ → ℝ} {f : ℝ → ℝ} {μ : Measure ℝ}
+    (hGf : ∀ᵐ x ∂μ, Tendsto (fun (n : ℕ) ↦ G n x) atTop (𝓝 (f x)))
+    (hG : ∀ (n : ℕ), AEMeasurable (fun x ↦ ‖G n x‖ₑ) μ) :
+    ∫⁻ x, ‖f x‖ₑ ∂μ ≤ liminf (fun n ↦ ∫⁻ x, ‖G n x‖ₑ ∂μ) atTop :=
+  lintegral_congr_ae (by filter_upwards [hGf] with x hx using hx.enorm.liminf_eq) ▸
+    (MeasureTheory.lintegral_liminf_le' hG)
+
+/-- If `G n` tends to `f` a.e. and each `G n` is `AEStronglyMeasurable`, then the lower Lebesgue
+integral of `‖f ·‖ₑ` is at most the liminf of the lower Lebesgue integral of `‖G n ·‖ₑ`. -/
+theorem lintegral_enorm_le_liminf_of_tendsto'
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/L1Space/Integrable.lean]: I don't think you need the two lemmas: the second one is a straightforward consequence of the first one, so I'd only keep the first one.

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/DerivIntegrable.lean [hunk 13]
```diff
@@ -0,0 +1,154 @@
...
+  rw [uIcc_of_le hab] at hf
+  obtain ⟨G, hGf, hG, hG'⟩ := hf.exists_tendsto_deriv_liminf_lintegral_enorm_le hab
+  have hG'₀ : liminf (fun (n : ℕ) ↦ ∫⁻ (x : ℝ) in Icc a b, ‖G n x‖ₑ) atTop ≠ ⊤ :=
+    lt_of_le_of_lt hG' ENNReal.ofReal_lt_top |>.ne_top
+  have integrable_f_deriv := integrable_of_tendsto hGf hG hG'₀
+  exact (intervalIntegrable_iff_integrableOn_Icc_of_le hab).mpr integrable_f_deriv
+
+/-- If `f` is monotone on `a..b`, then `f'` is interval integrable on `a..b` and the integral of
+`f'` on `a..b` is in between `0` and `f b - f a`. -/
+theorem MonotoneOn.intervalIntegral_deriv_bound {f : ℝ → ℝ} {a b : ℝ}
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/IntervalIntegral/DerivIntegrable.lean]:
```suggestion
theorem MonotoneOn.intervalIntegral_deriv_mem_uIcc {f : ℝ → ℝ} {a b : ℝ}
```

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/Slope.lean [hunk 14]
```diff
@@ -0,0 +1,78 @@
...
+Authors: Yizheng Zhu
+-/
+import Mathlib.LinearAlgebra.AffineSpace.Slope
+import Mathlib.MeasureTheory.Integral.IntervalIntegral.Basic
+
+/-!
+# Some properties of the interval integral of `fun x ↦ slope f x (x + c)`, given a constant `c : ℝ`
+
+This file proves that:
+* `IntervalIntegrable.intervalIntegrable_slope` - If `f` is interval integrable on `a..(b + c)`
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/IntervalIntegral/Slope.lean]:
```suggestion
* `IntervalIntegrable.intervalIntegrable_slope`: If `f` is interval integrable on `a..(b + c)`
```
Same thing below.

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/Slope.lean [hunk 15]
```diff
@@ -0,0 +1,78 @@
...
+/-- If `f` is monotone on `a..(b + c)` where `a ≤ b` and `0 ≤ c`, then
+`fun x ↦ slope f x (x + c)` is interval integrable on `a..b`. -/
+theorem MonotoneOn.intervalIntegrable_slope {f : ℝ → ℝ} {a b c : ℝ}
+    (hf : MonotoneOn f (Icc a (b + c))) (hab : a ≤ b) (hc : 0 ≤ c) :
+    IntervalIntegrable (fun x ↦ slope f x (x + c)) volume a b :=
+  uIcc_of_le (show a ≤ b + c by linarith) ▸ hf |>.intervalIntegrable.intervalIntegrable_slope hab hc
+
+/-- If `f` is monotone on `a..(b + c)` where `a ≤ b` and `0 ≤ c`, then the interval integral of
+`fun x ↦ slope f x (x + c)` on `a..b` is at most `f (b + c) - f a`. -/
+theorem MonotoneOn.intervalIntegral_slope_bound {f : ℝ → ℝ} {a b c : ℝ}
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/IntervalIntegral/Slope.lean]:
```suggestion
theorem MonotoneOn.intervalIntegral_slope_le {f : ℝ → ℝ} {a b c : ℝ}
```
The lemma says that the interval integral is le something, so use le in the statement (bound is less obvious to interpret). Don't forget to change the lemma name also in the file-level docstring.

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/DerivIntegrable.lean [hunk 16]
```diff
@@ -0,0 +1,154 @@
...
+`G n` is `AEStronglyMeasurable` and the liminf of the lower Lebesgue integral of `‖G n ·‖ₑ` is at
+most `f b - f a`. -/
+lemma MonotoneOn.exists_tendsto_deriv_liminf_lintegral_enorm_le
+    {f : ℝ → ℝ} {a b : ℝ} (hab : a ≤ b) (hf : MonotoneOn f (Icc a b)) :
+    ∃ G : (ℕ → ℝ → ℝ), (∀ᵐ x ∂volume.restrict (Icc a b),
+      Filter.Tendsto (fun (n : ℕ) ↦ G n x) Filter.atTop (𝓝 (deriv f x))) ∧
+      (∀ (n : ℕ), AEStronglyMeasurable (G n) (volume.restrict (Icc a b))) ∧
+      liminf (fun (n : ℕ) ↦ ∫⁻ (x : ℝ) in Icc a b, ‖G n x‖ₑ) atTop ≤
+        ENNReal.ofReal (f b - f a) := by
+  let g (x : ℝ) : ℝ := f (max a (min x b))
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/IntervalIntegral/DerivIntegrable.lean:47]: Could you add a sketch of the proof in a comment at the beginning of the proof? It's often useful whenever a proof is nontrivial, to help the reader follow what is going on (in particular, here, to understand why it's useful to extend the function to a globally monotone function)

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks!
